US08106221B2
Step 7. tert-butyl 3-(3-chlorophenyl)-3-(cyanomethoxy)propyl(methyl)carbamate
To a suspension of NaH (0.65 g, 27 mmol) and tert-butyl 3-(3-chlorophenyl)-3-hydroxypropyl(methyl)carbamate (2.7 g, 9 mmol) in CH3CN (60 mL) at 0-5° C. was added drop wise a solution of bromoacetonitrile (3.3 g, 27 mmol) in CH3CN (20 mL), the reaction mixture was stirred for overnight at room temperature. The reaction mixture was poured into saturated aqueous NH4Cl, ethyl acetate (50 mL) was added. The organic layer was washed with water (3×20 mL) and brine, dried over Na2SO4, filtered and concentrated in vacuo to afford the crude product, which was used for the next step without purification.

reactant | NaH | 27 mmol, 0.65 g | [H-].[Na+]
reactant | tert-butyl 3-(3-chlorophenyl)-3-hydroxypropyl(methyl)carbamate | 9 mmol, 2.7 g | ClC=1C=C(C=CC1)C(CCN(C(OC(C)(C)C)=O)C)O | C15H22ClNO3
reactant | bromoacetonitrile | 27 mmol, 3.3 g | BrCC#N | C2H2BrN
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH3CN | 60 mL | CC#N | C2H3N
solvent | CH3CN | 20 mL | CC#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-(3-chlorophenyl)-3-(cyanomethoxy)propyl(methyl)carbamate | ClC=1C=C(C=CC1)C(CCN(C(OC(C)(C)C)=O)C)OCC#N | C17H23ClN2O3
